US07598264B2
Step 2: Sodium 1-(ethoxycarbonyl)-6-(4-fluorobenzyl)-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-4-olate
To ethyl 6-(4-fluorobenzyl)-4-hydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate 2-oxide (2.3 gm, 6.38 mmol) in neat acetic anhydride (24 mL) was stirred under nitrogen at 100° C. for 1 hour. The reaction was concentrated to an oil under reduced pressure and dry methanol (20 mL) was added followed by a methanolic sodium methoxide solution (30% by wt) (4.54 mL, 25.2 mmol). The reaction was stirred at room temperature for 1 hour. The reaction was then concentrated to an oil under reduced pressure and crystallized from a small amount of methanol (˜5 mL). The crystals were collected by filtration, washed an additional 10 mL of methanol and dried in vacuo to give the desired product.

reactant | ethyl 6-(4-fluorobenzyl)-4-hydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate 2-oxide | 6.38 mmol, 2.3 gm | FC1=CC=C(CN2C(C3=C(C=[N+](C(=C3CC2)C(=O)OCC)[O-])O)=O)C=C1 | C18H17FN2O5
reactant | sodium methoxide | 25.2 mmol, 4.54 mL | C[O-].[Na+]
solvent | acetic anhydride | 24 mL | C(C)(=O)OC(C)=O | C4H6O3
product | Sodium 1-(ethoxycarbonyl)-6-(4-fluorobenzyl)-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-4-olate | C(C)OC(=O)C=1NC(C(=C2C(N(CCC12)CC1=CC=C(C=C1)F)=O)[O-])=O.[Na+] | InChI=1S/C18H17FN2O5.Na/c1-2-26-18(25)14-12-7-8-21(9-10-3-5-11(19)6-4-10)17(24)13(12)15(22)16(23)20-14;/h3-6,22H,2,7-9H2,1H3,(H,20,23);/q;+1/p-1
